Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Penicillins / Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
NONE
 
History of Present Illness:
___, PMH significant for yof with hx HTN presenting as a 
transfer from ___ with concern for perforated esophagus / 
duodenum. She was in her usual state of health this morning 
although her daughter notes that she has been taking large 
amounts of ibuprofen. She ate her usual breakfast of cereal and 
tea which went as usual. After that she had sudden onset of 
right-sided chest pain as well as some difficulty breathing. 
This is accompanied with right upper quadrant and then more 
diffuse abdominal pain. She has been mildly nauseated but has 
not vomited. She denies any bowel movement changes. No fevers or 
chills.
At the outside hospital patient reportedly had a desat episode 
to 87% on nasal cannula some cyanosis. Patient improved with 
pain control and nonrebreather. Here labs were notable for WBC 
10.8, Lactate 2.8. She was given Ceftriaxone at 1400, Ertapenem 
at 1550 prior to transfer. 

 
Past Medical History:
Urinary incontinence
Appendectomy (remote)
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
==========================  
Vitals:  96.6 90 118/70 22 97% NRB
GEN: A&O, NAD  
HEENT: No scleral icterus, mucus membranes moist  
CV: RRR, No M/G/R  
PULM: Shallow breath sounds. Rhonchi RLL   
ABD: S/mild distension/NT; voluntary guarding, normoactive bowel 
sounds, no palpable masses  
DRE: normal tone, no gross or occult blood  
Ext: No ___ edema, ___ warm and well perfused  

DISCHARGE PHYSICAL EXAM:
===========================
DECEASED
 
Pertinent Results:
ADMISSION LABS: 
================
___ 06:35PM BLOOD WBC-4.3 RBC-5.47* Hgb-15.1 Hct-46.6* 
MCV-85 MCH-27.6 MCHC-32.4 RDW-14.3 RDWSD-44.2 Plt ___
___ 06:35PM BLOOD Neuts-65 Bands-10* Lymphs-13* Monos-11 
Eos-0 Baso-0 ___ Metas-1* Myelos-0 AbsNeut-3.23 
AbsLymp-0.56* AbsMono-0.47 AbsEos-0.00* AbsBaso-0.00*
___ 06:35PM BLOOD Hypochr-NORMAL Anisocy-NORMAL Poiklo-1+ 
Macrocy-NORMAL Microcy-NORMAL Polychr-NORMAL Burr-1+
___ 06:35PM BLOOD ___ PTT-18.7* ___
___ 06:35PM BLOOD Glucose-200* UreaN-28* Creat-0.9 Na-139 
K-4.0 Cl-106 HCO3-17* AnGap-20
___ 08:47PM BLOOD ___ pO2-57* pCO2-42 pH-7.23* 
calTCO2-18* Base XS--9 Intubat-NOT INTUBA
___ 06:58PM BLOOD Lactate-2.2*

IMAGING: 
=========
___ Imaging ESOPHAGUS     
Study limited due to patient likely mobility.  Within these 
limitations, no evidence of leak. 

___ Imaging CHEST (PORTABLE AP) 
Re-demonstrated moderate right pleural effusion appears 
increased in size.  
Small right pneumothorax appears more conspicuous compared to 
the prior chest radiograph. 
  
Streaky left mid to lower lung opacities may be due to 
atelectasis, aspiration not excluded. 

CT: 
Chest: Comparison with ___ upright portable chest.
Right hydropneumothorax with moderate size layering right 
pleural
effusion attenuation values of ___ ___ units. 
Pneumothorax
component estimated 20%. Patchy and streaky dependent and 
nondependent
right pulmonary opacities. No shift of midline structures. No 
left
pleural process or parenchymal abnormality. Cardiomegaly with no
obvious cardiac decompensation. Pulmonary artery well opacified
without pulmonary embolism. Tortuous, mildly ectatic thoracic 
aorta
with catheter pleural plaques but no aneurysmal dilatation or
dissection. Great vessels patent. No hilar or mediastinal
lymphadenopathy.

No rib or vertebral fracture.

ABDOMEN: Free intraperitoneal air with several small gas bubbles
adjacent to the anterior gastric fundal-duodenal junction and 
adjacent
smaller free fluid extending to the gallbladder. Findings 
concerning
for distal gastric or duodenal ulcer perforation. No other free 
fluid
or drainable collection. No bowel dilatation or other focal
abnormality.

Liver, gallbladder and biliary tree, pancreas, spleen, and IVC
unremarkable. Bilateral adrenal hypertrophy. No renal calculus,
hydronephrosis or mass. 2 cm left renal simple cyst.

Diffuse abdominal aortic ectasia with calcification but no focal
dilatation or dissection. Celiac axis, superior and inferior
mesenteric arteries and solitary renal arteries patent.

No adenopathy. L1 compression fracture which appears old. No 
acute
osseous abnormality.

CONCLUSION:
1. Pneumoperitoneum likely secondary to gastric antral or 
duodenal
ulcer perforation.
2. Right hydropneumothorax without clear etiology.
3. Aortic ectasia with no focal aneurysmal or dissection.

 
Brief Hospital Course:
Ms. ___ is a ___ year old transferred from ___ who p/w 
abdominal pain and found to have duodenal perforation on 
imaging. Patient was offered surgery, which she declined. After 
extensive goals of care discussion in which patient showed clear 
capacity, the patient was made DNR/DNI with comfort directed 
management and no escalation of care. She was made NPO with ice 
chips for comfort. NGT and CT were deferred. Patient placed on 
IV antibiotics to help prevent infection. Palliative care and 
social work consults were placed. Patient was then transferred 
to medicine for further management. While on the medicine 
service, patient's daughter and grand-daughter re-affirmed 
patient's wishes to focus on comfort care. Patient was started 
on a morphine gtt for comfort with PRN anxiolytics and other 
symptomatic medications as needed. Patient passed away on 
overnight on ___.
 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. amLODIPine 10 mg PO DAILY 
2. Lisinopril 2.5 mg PO DAILY 
3. Naproxen 250 mg PO BID:PRN Pain - Moderate 

 
Discharge Medications:
DECEASED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
Duodenal perforation

 
Discharge Condition:
DECEASED
 
Discharge Instructions:
DECEASED
 
Followup Instructions:
___